US07662830B2
2. 6′-Amino-3′-chloro-4-[6-(4-fluoro-phenyl)-2-(3-(R)-methyl-morpholin-4-yl)-pyrimidin-4-yl]-3-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester
Heat a mixture of 4-[4-(4-fluoro-phenyl)-6-(2-methyl-piperazin-1-yl)-pyrimidin-2-yl]-3-(R)-methyl-morpholine with 1.1 equivalents of 3-amino-5,6-dichloro-pyrazine-2-carboxylic acid methyl ester (Cragoe et. al. J. Med. Chem., 1967, 10, 66-75) in isopropanol at 85° C. for 12 h. Concentrate the mixture under reduced pressure, and then partition between 10% NaOH and EtOAc. Dry the organic layer (Na2SO4) and concentrate under reduced pressure to give the title compound.

reactant | 4-[4-(4-fluoro-phenyl)-6-(2-methyl-piperazin-1-yl)-pyrimidin-2-yl]-3-(R)-methyl-morpholine | FC1=CC=C(C=C1)C1=NC(=NC(=C1)N1C(CNCC1)C)N1[C@@H](COCC1)C | C20H26FN5O
reactant | 3-amino-5,6-dichloro-pyrazine-2-carboxylic acid methyl ester | 1.1 equivalents | COC(=O)C1=NC(=C(N=C1N)Cl)Cl | C6H5Cl2N3O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6′-Amino-3′-chloro-4-[6-(4-fluoro-phenyl)-2-(3-(R)-methyl-morpholin-4-yl)-pyrimidin-4-yl]-3-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester | COC(=O)C=1N=C(C(=NC1N)N1CC(N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](COCC1)C)C)Cl | C26H30ClFN8O3
